US05416065
Preparation of 4,4-dimethyl-pyrazolidine N,N'-dicarboxylic acid di-tert-buty1 ester
41.8 g of hydrazine-N,N'-dicarboxylic acid di-tert-butyl ester, 74.5 g of potassium carbonate, 52.0 g of 2,2-dimethyl-1,3-propanediol dimethanesulfonate and 2.0 g of potassium iodide are stirred for 48 hours at 120°-130° C. in 360 ml of N,N-dimethylformamide. The reaction mixture is then concentrated; diethyl ether is added and the organic phase is washed with water. Mter drying over sodium sulfate, the reaction mixture is concentrated and purified by means of column chromatography to yield 1.1 g of the desired product, 4,4-dimethyl-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester, in the form of white crystals.

reactant | hydrazine-N,N'-dicarboxylic acid di-tert-butyl ester | 41.8 g | C(C)(C)(C)OC(=O)NNC(=O)OC(C)(C)C | C10H20N2O4
reactant | potassium carbonate | 74.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-dimethyl-1,3-propanediol dimethanesulfonate | 52.0 g | CS(=O)(=O)OCC(COS(=O)(=O)C)(C)C | C7H16O6S2
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | N,N-dimethylformamide | 360 ml | CN(C=O)C | C3H7NO
product | 4,4-dimethyl-pyrazolidine N,N'-dicarboxylic acid di-tert-buty1 ester | 1.1 g | C(C)(C)(C)OC(=O)N1N(CC(C1)(C)C)C(=O)OC(C)(C)C | C15H28N2O4
